US07229998B2
Ethyl 4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carboxylate
To a 1-L round-bottom flask equipped with a magnetic stir-bar and a N2 inlet was added Ethyl 4-(hydroxymethyl)-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carboxylate (42 g, 0.127 moles, 1 eq) and dry CH2Cl2 (300 ml) at room temperature. This was followed by the addition of 3,4-dihydro-2H-pyran (14 ml, 0.152 moles, 1.2 eq) as a neat liquid and pyridinium p-toluenesulfonate (6.4 g, 25.4 mmoles, 20 mol %). The reaction mixture was stirred at room temperature overnight (10 hrs). The volatiles were then removed in vacuo and the residue was purified by flash silica gel chromatography (10% EtOAc/Hexanes to 30% EtOAc/Hexanes) to yield 34 g (64%) of pure title compound.

reactant | Ethyl 4-(hydroxymethyl)-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carboxylate | 0.127 moles, 42 g, 1 eq | OCC=1N=C(SC1C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C14H12F3NO3S
reactant | 3,4-dihydro-2H-pyran | 0.152 moles, 14 ml, 1.2 eq | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 25.4 mmoles, 6.4 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carboxylate | 34 g, 64% | O1C(CCCC1)OCC=1N=C(SC1C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C19H20F3NO4S
